### PR TITLE
Add finite cyclical fields

### PR DESCRIPTION
**Pull request by uzytkownik**
I'm nearly finished with finite cyclical fields (remaining part is Euler theorem depending on binomial theorem depending on polynomials depending on maps depending on sorted and group properties for lists).

Since there is bit of code to review I'm adding it for review now.

### CODE REVIEW

File: src/Data/List/Relation/Unary/Sorted.agda [hunk 1]
```diff
@@ -0,0 +1,141 @@
...
+  sorted : B.Decidable _≺_ → U.Decidable Sort
+  sorted _≺?_ [] = yes []
+  sorted _≺?_ (x ∷ []) = yes (lift tt ∷ [])
+  sorted _≺?_ (x ∷ y ∷ xs) = Dec.map′ (uncurry _∷_) (λ {(x≺y ∷ sort[y∷xs]) → x≺y , sort[y∷xs]}) (x ≺? y ×-dec sorted _≺?_ (y ∷ xs)) where
+
+  module _ (≺-total : Total _≺_) where
+    module Merge where
+      mutual
+        -- Split into 2 helper functions to make termination checker happy
+        merge-auxₗ : A → List A → List A → List A
```
Comment (gallais) [inline src/Data/List/Relation/Unary/Sorted.agda]: I do not think this is needed. You can perform all of the recursive calls
in the same `with`-clause and it should be fine.

File: src/Data/List/Relation/Unary/Sorted.agda [hunk 2]
```diff
@@ -0,0 +1,141 @@
...
+        ys = split (x₁ ∷ x₂ ∷ xs)
+        ys-length = split-length (x₁ ∷ x₂ ∷ xs)
+        lemma₁ = split-length₁ x₁ x₂ xs
+        lemma₂ = split-length₂ x₁ x₂ xs
+
+      merge-sort : List A → List A
+      merge-sort xs = merge-sort-aux xs (<-wellFounded (length xs)) where
+        open import Data.Nat.Induction
+    open Merge using (merge; merge-sort) public
+
```
Comment (gallais) [inline src/Data/List/Relation/Unary/Sorted.agda]: This seems very nasty. I expect it should be a lot easier to implement
merge sort by going via `Data.Vec.Bounded`. I'll send a PR.

File: src/Data/Nat/Properties.agda [hunk 3]
```diff
@@ -225,6 +225,9 @@ n≤1+n _ = ≤-step ≤-refl
 n≤0⇒n≡0 : ∀ {n} → n ≤ 0 → n ≡ 0
 n≤0⇒n≡0 z≤n = refl
 
+1+n≤1+m⇒n≤m : ∀ {m n} → suc m ≤ suc n → m ≤ n
+1+n≤1+m⇒n≤m (s≤s le) = le
+
```
Comment (gallais) [inline src/Data/Nat/Properties.agda]: Is this [`pred-mono`](http://agda.github.io/agda-stdlib/Data.Nat.Properties.html#11633)?

File: src/Data/Nat/Properties.agda [hunk 4]
```diff
@@ -1017,11 +1020,26 @@ m^n≡1⇒n≡0∨m≡1 m (suc n) eq = inj₂ (m*n≡1⇒m≡1 m (m ^ n) eq)
 ⊔-idem : Idempotent _⊔_
 ⊔-idem = sel⇒idem ⊔-sel
 
+⊔-greatest : ∀ {m n o} → m ≥ o ⊎ n ≥ o → m ⊔ n ≥ o
+⊔-greatest {zero} {n} (inj₁ z≤n) = z≤n
```
Comment (gallais) [inline src/Data/Nat/Properties.agda]: Feels like there should be a vastly shorter proof by using [`⊔-sel`](http://agda.github.io/agda-stdlib/Data.Nat.Properties.html#28082)

File: src/Data/Nat/Properties.agda [hunk 5]
```diff
@@ -1017,11 +1020,26 @@ m^n≡1⇒n≡0∨m≡1 m (suc n) eq = inj₂ (m*n≡1⇒m≡1 m (m ^ n) eq)
...
 ⊔-least : ∀ {m n o} → m ≤ o → n ≤ o → m ⊔ n ≤ o
 ⊔-least {m} {n} m≤o n≤o with ⊔-sel m n
 ... | inj₁ m⊔n≡m rewrite m⊔n≡m = m≤o
 ... | inj₂ m⊔n≡n rewrite m⊔n≡n = n≤o
 
+⊔-suc : ∀ m n → suc m ⊔ suc n ≡ suc (m ⊔ n)
+⊔-suc zero n = refl
+⊔-suc (suc m) zero = refl
+⊔-suc (suc m) (suc n) = cong suc (⊔-suc m n)
+
```
Comment (gallais) [inline src/Data/Nat/Properties.agda]: Doesn't this hold by `refl`?

File: src/Data/Nat/Properties.agda [hunk 6]
```diff
@@ -1229,6 +1247,14 @@ m⊔n≤m+n m n with ⊔-sel m n
...
 ... | inj₂ m⊓n≡n rewrite m⊓n≡n = n≥o
 
+⊓-least : ∀ {m n o} → m ≤ o ⊎ n ≤ o → m ⊓ n ≤ o
+⊓-least {zero}  {n}     (inj₁ m≤o)       = z≤n
+⊓-least {suc m} {zero}  (inj₁ m≤o)       = z≤n
+⊓-least {suc m} {suc n} (inj₁ (s≤s m≤o)) = s≤s (⊓-least (inj₁ m≤o))
+⊓-least {zero}  {n}     (inj₂ n≤o)       = z≤n
+⊓-least {suc m} {zero}  (inj₂ n≤o)       = n≤o
+⊓-least {suc m} {suc n} (inj₂ (s≤s n≤o)) = s≤s (⊓-least (inj₂ n≤o))
+
```
Comment (gallais) [inline src/Data/Nat/Properties.agda]: Same comment about `Selective` simplifying the proof.

File: src/Data/List/Relation/Unary/Sorted.agda [hunk 7]
```diff
@@ -0,0 +1,141 @@
...
+Sorted-≺-head : ∀ {a ℓ} {A : Set a} → Rel A ℓ → A → List A → Set ℓ
+Sorted-≺-head _≺_ x [] = Lift _ ⊤
+Sorted-≺-head _≺_ x (y ∷ xs) = x ≺ y
+
+data Sorted {a ℓ} {A : Set a} (_≺_ : Rel A ℓ) : Pred (List A) (a ⊔ ℓ) where
+  [] : Sorted _≺_ []
+  _∷_ : ∀ {x xs} → Sorted-≺-head _≺_ x xs → Sorted _≺_ xs → Sorted _≺_ (x ∷ xs)
+
+Monotonic : ∀ {a ℓ} {A : Set a} → (_≺_ : Rel A ℓ) → Pred (List A) (a ⊔ ℓ)
+Monotonic _≺_ = AllPairs _≺_
```
Comment (JacquesCarette) [inline src/Data/List/Relation/Unary/Sorted.agda]: Shouldn't this definition of `Monotonic` go elsewhere? It seems like it could be defined in `AllPairs` for example.

File: src/Data/Nat/DivMod.agda [hunk 8]
```diff
@@ -115,6 +115,26 @@ m<[1+n%d]⇒m≤[n%d] {m} n (suc d-1) = k<1+a[modₕ]n⇒k≤a[modₕ]n 0 m n d-
   (m % d +  n % d + (n / d) * d)  % d ≡⟨ [m+kn]%n≡m%n (m % d + n % d) (n / d) d-1 ⟩
   (m % d +  n % d)                % d ∎
 
+%-distribˡ-* : ∀ m n d {≢0} → ((m * n) % d) {≢0} ≡ (((m % d) {≢0} * (n % d) {≢0}) % d) {≢0}
+%-distribˡ-* m n d@(suc d-1) = begin-equality
+  (m * n)                                             % d ≡⟨ cong (λ h → (h * n) % d) (m≡m%n+[m/n]*n m d-1) ⟩
```
Comment (JacquesCarette) [inline src/Data/Nat/DivMod.agda]: The first 9 steps here all seem to be manipulations under the outer `% d` - why not pull that out as a lemma?

File: src/Data/Nat/Properties.agda (hunk 3 above)
Comment (JacquesCarette) [reply src/Data/Nat/Properties.agda]: I expected its name to be `suc-inj` or `suc-injective` !!

File: src/Data/List/Relation/Unary/Sorted.agda [hunk 9]
```diff
@@ -0,0 +1,141 @@
...
+    Sort = Sorted _≺_
+    _≺-head_ = Sorted-≺-head _≺_
+
+  sorted : B.Decidable _≺_ → U.Decidable Sort
+  sorted _≺?_ [] = yes []
+  sorted _≺?_ (x ∷ []) = yes (lift tt ∷ [])
+  sorted _≺?_ (x ∷ y ∷ xs) = Dec.map′ (uncurry _∷_) (λ {(x≺y ∷ sort[y∷xs]) → x≺y , sort[y∷xs]}) (x ≺? y ×-dec sorted _≺?_ (y ∷ xs)) where
+
+  module _ (≺-total : Total _≺_) where
+    module Merge where
```
Comment (MatthewDaggitt) [inline src/Data/List/Relation/Unary/Sorted.agda]: So it's going to cleanest if we distinguish between the `Sorted` predicate and the actual sorting algorithms. I would keep the sorted predicate here and move  `Merge` and `Quick` to their own top level modules `Data.List.Sorting.Mergesort` and `Data.List.Sorting.Quicksort`.

File: src/Data/Nat/DivMod.agda (hunk 8 above)
Comment (MatthewDaggitt) [reply src/Data/Nat/DivMod.agda]: In my opinion I would keep as is, but use the new `Data.Nat.Tactic.RingSolver` to automatically generate the proof for step 4 to step 11.

File: src/Data/Nat/Properties.agda (hunk 3 above)
Comment (MatthewDaggitt) [reply src/Data/Nat/Properties.agda]: > I expected its name to be suc-inj or suc-injective !!

Err, but we already use that name for injectivity over equality.

File: src/Data/Nat/Properties.agda [hunk 10]
```diff
@@ -377,18 +380,18 @@ m<n⇒m≤1+n : ∀ {m n} → m < n → m ≤ suc n
 m<n⇒m≤1+n (s≤s z≤n)       = z≤n
 m<n⇒m≤1+n (s≤s (s≤s m<n)) = s≤s (m<n⇒m≤1+n (s≤s m<n))
 
-∀[m≤n⇒m≢o]⇒o<n : ∀ n o → (∀ {m} → m ≤ n → m ≢ o) → n < o
-∀[m≤n⇒m≢o]⇒o<n _       zero    m≤n⇒n≢0 = contradiction refl (m≤n⇒n≢0 z≤n)
-∀[m≤n⇒m≢o]⇒o<n zero    (suc o) _       = 0<1+n
-∀[m≤n⇒m≢o]⇒o<n (suc n) (suc o) m≤n⇒n≢o = s≤s (∀[m≤n⇒m≢o]⇒o<n n o rec)
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Properties.agda]: Thanks, nice spot!

File: src/Data/Nat/Properties.agda (hunk 4 above)
Comment (MatthewDaggitt) [reply src/Data/Nat/Properties.agda]: In fact we've already proved the two constituent parts `m≤n⇒m≤n⊔o` and `m≤n⇒m≤o⊔n` so all you have to do is put them together.

File: src/Data/Nat/Properties.agda (hunk 6 above)
Comment (MatthewDaggitt) [reply src/Data/Nat/Properties.agda]: Again we've already proved the two parts.

File: src/Data/Nat/Properties.agda [hunk 11]
```diff
@@ -1474,6 +1500,14 @@ n∸n≡0 : ∀ n → n ∸ n ≡ 0
 n∸n≡0 zero    = refl
 n∸n≡0 (suc n) = n∸n≡0 n
 
+1+[n∸m]≡1+n∸m : ∀ n m → m ≤ n → suc (n ∸ m) ≡ suc n ∸ m
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Properties.agda]: I think this just a specialisation of `+-∸-assoc` so I don't think we need it?

File: src/Data/Nat/Properties.agda [hunk 12]
```diff
@@ -1474,6 +1500,14 @@ n∸n≡0 : ∀ n → n ∸ n ≡ 0
...
+1+[n∸m]≡1+n∸m  n       zero    0≤n      = refl
+1+[n∸m]≡1+n∸m (suc n) (suc m) (s≤s m≤n) = 1+[n∸m]≡1+n∸m n m m≤n
+
+1+n∸n≡1 : ∀ n → suc n ∸ n ≡ 1
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Properties.agda]: Again I think this just a specialisation of `m+n∸n≡m`

File: src/Data/Nat/Properties.agda [hunk 13]
```diff
@@ -1671,6 +1709,13 @@ m⊓n+n∸m≡n (suc m) (suc n) = cong suc $ m⊓n+n∸m≡n m n
 ∸-distribʳ-⊔ (suc m) (suc n) zero    = sym (⊔-identityʳ (n ∸ m))
 ∸-distribʳ-⊔ (suc m) (suc n) (suc o) = ∸-distribʳ-⊔ m n o
 
+------------------------------------------------------------------------
+-- Other properties of _∸_
+
+n∸[n∸m]≡m : ∀ {n m} → (m ≤ n) → n ∸ (n ∸ m) ≡ m
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Properties.agda]: Isn't this just `m∸[m∸n]≡n`?

File: src/Data/Nat/Properties.agda (hunk 3 above)
Comment (JacquesCarette) [reply src/Data/Nat/Properties.agda]: Oh shoot, my bad - I somehow bleeped over the `≤`.  Sorry for the noise.

File: src/Data/List/Base.agda [hunk 14]
```diff
@@ -292,6 +300,16 @@ span P? (x ∷ xs) with does (P? x)
...
+nub-filter : ∀ {R : Rel A p} → B.Decidable R → A → List A → List A
+nub-filter R? y [] = []
+nub-filter R? y (x ∷ xs) with does (R? y x)
+... | true  = nub-filter R? y xs
+... | false = x ∷ nub-filter R? x xs
+
+nub : ∀ {R : Rel A p} → B.Decidable R → List A → List A
+nub R? []       = []
+nub R? (x ∷ xs) = x ∷ nub-filter R? x xs
+
```
[the remark this answers is not in the document]
Comment (uzytkownik) [reply src/Data/List/Base.agda]: It's modelled after Haskell [`nub`](https://hackage.haskell.org/package/base-4.12.0.0/docs/Data-List.html#v:nub) function. In particular:

- `nub-filter` is not equivalent to `filter (∁? (R? x))` as `nub` only filters consecutive duplicate elements not all duplicate elements
- `nub` is named `nub` which means essence.

File: src/Data/List/Relation/Unary/Sorted.agda (hunk 2 above)
Comment (uzytkownik) [reply src/Data/List/Relation/Unary/Sorted.agda]: On flip side it is much harder to prove that sort is permutation for vectors which is why it was easier for me to do it on lists.

(This is not included as I haven't intended to send the sort yet).

File: src/Data/Nat/Properties.agda (hunk 3 above)
Comment (uzytkownik) [reply src/Data/Nat/Properties.agda]: @gallais Wouldn't `pred-mono` indicate the property `m ≤ n → pred m ≤ pred n`? Which is similar but slightly different property?

File: src/Data/Nat/DivMod.agda (hunk 8 above)
Comment (uzytkownik) [reply src/Data/Nat/DivMod.agda]: I dont know how to use tactics in agda and I couldn't find introduction to it.

File: src/Data/List/Membership/Propositional/Properties.agda [hunk 15]
```diff
@@ -179,6 +179,33 @@ module _ {p} {P : A → Set p} (P? : Decidable P) where
...
+  ∈-nub-filter⁻ y {x ∷ xs} z∈nub-filter[R?,y,xs] with does (R? y x)
+  ∈-nub-filter⁻ y {x ∷ xs} z∈nub-filter[R?,y,xs]         | true  = there (∈-nub-filter⁻ y z∈nub-filter[R?,y,xs])
+  ∈-nub-filter⁻ y {x ∷ xs} (here refl)                   | false = here P.refl
+  ∈-nub-filter⁻ y {x ∷ xs} (there z∈nub-filter[R?,x,xs]) | false = there (∈-nub-filter⁻ x z∈nub-filter[R?,x,xs])
+
+  ∈-nub⁻ : ∀ xs {z} → z ∈ nub R? xs → z ∈ xs
+  ∈-nub⁻ (x ∷ xs) (here refl) = here refl
+  ∈-nub⁻ (x ∷ xs) (there z∈nub[R?,xs]) = there (∈-nub-filter⁻ x z∈nub[R?,xs])
+
+module _ {ℓ} {R : Rel A ℓ} (_≈?_ : B.Decidable (_≡_ {A = A})) where
```
[the remark this answers is not in the document]
Comment (uzytkownik) [reply src/Data/List/Membership/Propositional/Properties.agda]: `_≟_` is already in scope so it cannot be used.

**Comment by uzytkownik** [comment]
@MatthewDaggitt I'll do it in a few days. Closing the review for now.

**Comment by MatthewDaggitt** [comment]
Hi @uzytkownik, just a heads up that we'd still be interested in some of the other stuff in this PR if you're willing, in particular the lexicographic ordering stuff for vectors. If you don't have the time, then would you mind me copying some it across into my own PR?

**Comment by uzytkownik** [comment]
@MatthewDaggitt I'll take a look over the weekend.
